US05262433
To a solution of 300 mg (1.10 mM) of [5-(3-trifluoromethylphenyl)tetrazol-1-yl] acetic acid in 2 ml of ethylene glycol was added 0.2 ml of sulfuric acid. After the addition, the mixture was stirred at 90° C. for 2.5 hrs. The mixture was then poured into ice-water and extracted with ethyl acetate. The organic phase was washed with water, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resultant residue was subjected to silica gel column chromatography (eluent: chloroform/methyl alcohol=20/1) for separation and purification, to give 310 mg (yield 88.9%) of [5-(3-trifluoromethylphenyl)tetrazol-1-yl] acetic acid 2-hydroxyethyl ester.

reactant | [5-(3-trifluoromethylphenyl)tetrazol-1-yl] acetic acid | 1.10 mM, 300 mg | FC(C=1C=C(C=CC1)C1=NN=NN1CC(=O)O)(F)F | C10H7F3N4O2
reactant | sulfuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethylene glycol | 2 ml | C(CO)O | C2H6O2
product | [5-(3-trifluoromethylphenyl)tetrazol-1-yl] acetic acid 2-hydroxyethyl ester | 310 mg, yield 88.9% | OCCOC(CN1N=NN=C1C1=CC(=CC=C1)C(F)(F)F)=O | C12H11F3N4O3
